US06277790B1
N-methyl-N-(tetrahydro-2H-thiopyran-4-yl)-4-(2-bromophenyl)-4,5-dihydro-1H-tetrazol-5-one-1-carboxamide (No. Ie.28)
Similarly to the process described in Example 1, 2.5 g (10 mmol) of 1-(2-bromophenyl)-1,2-dihydro-5H-tetrazol-5-one, 2 g (10 mmol) of N-methyl-N-(tetrahydro-2H-thiopyran-4-yl)carbamoyl chloride and 1.5 g (12 mmol) of 4-dimethylaminopyridine were reacted. Yield 2.5 g.

reactant | 1-(2-bromophenyl)-1,2-dihydro-5H-tetrazol-5-one | 10 mmol, 2.5 g | BrC1=C(C=CC=C1)N1NN=NC1=O | C7H5BrN4O
reactant | N-methyl-N-(tetrahydro-2H-thiopyran-4-yl)carbamoyl chloride | 10 mmol, 2 g | CN(C(=O)Cl)C1CCSCC1 | C7H12ClNOS
catalyst | 4-dimethylaminopyridine | 12 mmol, 1.5 g | CN(C1=CC=NC=C1)C | C7H10N2
product | N-methyl-N-(tetrahydro-2H-thiopyran-4-yl)-4-(2-bromophenyl)-4,5-dihydro-1H-tetrazol-5-one-1-carboxamide | CN(C(=O)N1N=NN(C1=O)C1=C(C=CC=C1)Br)C1CCSCC1 | C14H16BrN5O2S
